US06133258
The reaction procedure of Example 102 was followed except that 560 mg of 2-chloronicotinoyl chloride, 242 mg of ammonium thiocyanate, 360 mg of 3-(methylamino)thiophene and 10 ml of acetone were used. The product was then recrystallized from a mixture of ethanol and chloroform to obtain 230 mg of 2-[N-methyl-N-(3-thienyl)amino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinoyl chloride | 560 mg | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | ammonium thiocyanate | 242 mg | [S-]C#N.[NH4+]
reactant | 3-(methylamino)thiophene | 360 mg | CNC1=CSC=C1 | C5H7NS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-[N-methyl-N-(3-thienyl)amino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 230 mg | CN(C1=CSC=C1)C=1SC2=C(C(N1)=O)C=CC=N2 | C12H9N3OS2
